US08278324B2
1,1-Dimethylethyl 6-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-5-methyl-3,4-dihydro-2(1H)-isoquinolinecarboxylate
A solution of 1,1-dimethylethyl 6-[{[({3-chloro-4-[(1-methylethyl)oxy]phenyl}carbonyl)oxy]amino}(imino)methyl]-5-methyl-3,4-dihydro-2(1H)-isoquinolinecarboxylate (Preparation 18; 413 mg; 0.823 mmol) in 1,4-dioxane (15 ml) was stirred at 110° C. for ca. 18 h. The mixture was cooled to room temperature and the solvent removed. Purification by flash chromatography on silica gel, eluting with 5-25% ethyl acetate in cyclohexane followed by 13-63% ethyl acetate in cyclohexane, gave the title compound as a white foam (220 mg).

reactant | 1,1-dimethylethyl 6-[{[({3-chloro-4-[(1-methylethyl)oxy]phenyl}carbonyl)oxy]amino}(imino)methyl]-5-methyl-3,4-dihydro-2(1H)-isoquinolinecarboxylate | 0.823 mmol, 413 mg | ClC=1C=C(C=CC1OC(C)C)C(=O)ONC(C=1C(=C2CCN(CC2=CC1)C(=O)OC(C)(C)C)C)=N | C26H32ClN3O5
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 1,1-Dimethylethyl 6-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-5-methyl-3,4-dihydro-2(1H)-isoquinolinecarboxylate | 220 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C(=C2CCN(CC2=CC1)C(=O)OC(C)(C)C)C | C26H30ClN3O4
